data/mechanism_extracts/JACS/10.1021_jacs.4c03087.json
{"doi": "10.1021_jacs.4c03087", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoenzyme-catalyzed enantioselective [2+2] cycloaddition of indoles using a thioxanthone-based photosensitizer embedded in an engineered protein scaffold (CMP4.0)", "mechanism_family": ["photoredox_combined", "biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "thioxanthone photosensitizer 3c triplet excited state (T1, nπ*/ππ* mixed)", "smiles": null, "role": "reactive"}, {"name": "triplet biradical from energy transfer to indole substrate 1a", "smiles": null, "role": "transient"}, {"name": "CMP4.0·1a ground-state complex (π–π stacked at 3.9 Å, enantioface-selective)", "smiles": null, "role": "resting_state"}], "electron_flow": "Visible-light excitation of the protein-bound thioxanthone (3c) produces a long-lived triplet state whose nπ* character disfavors H-abstraction; triplet–triplet energy transfer to the π-stacked indole 1a generates an excited indole/biradical that undergoes enantioselective [2+2] cycloaddition within the chiral active site.", "rate_determining_step": "Unimolecular photochemical step on bound substrate (kcat linearly dependent on light intensity); Michaelis–Menten kinetics with KM = 36.69 µM and kcat = 11.28 min⁻¹", "probe_reagents": [{"name": "Michaelis–Menten kinetic analysis", "smiles": null, "purpose": "kinetic_order", "observation": "Saturation kinetics for CMP1.0 (kcat/KM = 209.47) and CMP4.0 (kcat/KM = 306.88 mM⁻¹ min⁻¹); kcat linear in light intensity → unimolecular photochemical RDS"}, {"name": "Photosensitizer comparison (CMP4.0 405 nm vs CMP4.0′ 365 nm vs free 3c 405 nm)", "smiles": null, "purpose": "other", "observation": "Bound 3c in CMP4.0 gives much higher yield than free 3c, confirming active-site catalysis"}, {"name": "UV-vis and photoluminescence spectroscopy", "smiles": null, "purpose": "other", "observation": "PL of CMP4.0 at 451 nm vs free 3c at 471 nm; quantum yield 17% vs 7%; longer τ2 (6144 ns vs 536 ns) indicating stabilized excited state in the protein"}, {"name": "Time-resolved emission decay (kinetic traces)", "smiles": null, "purpose": "other", "observation": "Double-exponential fit: CMP4.0 τ1=139.95 ns, τ2=6144.62 ns vs 3c τ1=2.95 ns, τ2=536.54 ns — protein matrix dramatically lengthens triplet lifetime"}, {"name": "X-ray crystallography (PDB 8ZF1) + docking", "smiles": null, "purpose": "intermediate_trap", "observation": "Two photosensitizers 5.8 Å apart; substrate 1a π-stacked at 3.9 Å with one face shielded, rationalizing enantioinduction"}], "evidence_types_used": ["UV_vis", "kinetic_order", "isolation_of_intermediate", "on/off_light_or_current", "other"], "evidence_strength": "medium", "notes": "Authors invoke energy transfer rather than SET; the nπ*-character triplet of thioxanthone is invoked to explain higher photostability vs benzophenone-based photoenzymes (which suffer H-abstraction via ππ* triplets). Alternative SET/radical-cation pathway is not explicitly probed by TEMPO/BHT trapping or EPR; mechanism inferred largely from photophysics, crystal structure, docking, and kinetics. Loading reduced to 0.25 mol% with >350 turnovers and ≥95:5 e.r."}
